US06358985B1
Step J: Preparation of N-(2-formyl-phenyl)-3-hydroxy-benzamide
To a solution of N-(2-hydroxymethylphenyl)-3-hydroxybenzyl amide (6.5 g, 26.7 mmol) in CH2Cl2 (120 ml) at 0° C. was added NEt3 (13.0 ml, 93.4 mmol) and pyridine.SO3 complex (12.7 g, 80.1 mmol ) in DMSO, 50 mL) and the solution was stirred 4 h at 25° C. The reaction was poured into ice and 10% HCl, and the layers were partitioned. The aqueous layer was washed 2× with CH2Cl2. All CH2Cl2 layers were combined and washed with H2O, saturated NaHCO3, brine, and dried (MgSO4). The solution was filtered and concentrated in vacuo to obtain the crude product which was purified on SiO2 gel using hexane/EtOAc 7/3 to obtain the title compound.

reactant | N-(2-hydroxymethylphenyl)-3-hydroxybenzyl amide | 26.7 mmol, 6.5 g | OCC1=C(C=CC=C1)[N-]CC1=CC(=CC=C1)O
reactant | NEt3 | 93.4 mmol, 13.0 ml | CCN(CC)CC | C6H15N
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | HCl | Cl | ClH
reactant | DMSO | CS(=O)C | C2H6OS
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
product | N-(2-formyl-phenyl)-3-hydroxy-benzamide | C(=O)C1=C(C=CC=C1)NC(C1=CC(=CC=C1)O)=O | C14H11NO3
